US03950362
To a hot suspension of 280 mg of 7-methylsulphonyloxy-3-methylsulphonyloxymethyl-2,4-dioxabicyclo[3,3,1]nonane in 2,5 ml of isopropanol is added 2,5 ml of a boiling 2n potassium hydroxide solution in isopropanol while stirring vigorously, and the resulting reaction mixture is boiled under reflux for 3 minutes. The reaction mixture is cooled and treated with 5 ml of an 8% sodium bicarbonate solution, then extracted 3 times with methylene chloride. The combined extracts are dried over sodium sulphate and the solvent is distilled off in vacuo uner reduced pressure to leave as residue the racemic 3-methylsulphonyloxymethyl-2,4-dioxabicyclo[3,3,1]non-6-ene in the form of a colourless oil, which soon congeals to a crystalline solid (m.p. 53°-56°C).

reactant | 7-methylsulphonyloxy-3-methylsulphonyloxymethyl-2,4-dioxabicyclo[3,3,1]nonane | 280 mg | CS(=O)(=O)OC1CC2OC(OC(C1)C2)COS(=O)(=O)C | C10H18O8S2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | isopropanol | 2,5 ml | C(C)(C)O | C3H8O
product | racemic 3-methylsulphonyloxymethyl-2,4-dioxabicyclo[3,3,1]non-6-ene | CS(=O)(=O)OCC1OC2CC=CC(O1)C2 | C9H14O5S
